US04355037
4-Fluoro-3-(1-methyl-4-piperidyl)-1,2-benzisoxazole hydrochloride
A stirred mixture of 209 g of 1-methyl-4-(2,6-difluorobenzoyl) piperidine, 400 g of potassium hydroxide, 102 g of hydroxylamine hydrochloride, 2100 ml of isopropanol and 2100 ml of water was refluxed for 10 hrs and then stirred overnight at ambient temperature. The reaction mixture was poured into water and extracted with hexane. The hexane extracts were dried over anhydrous magnesium sulfate, filtered and the solvent was removed in vacuo to yield a solid. The solid was purified by passing it through a silica gel column (15:1) using 1% methanol in dichloromethane as eluent. Evaporation of the eluent provided a solid, which was dissolved in ether. A hydrochloric acid-ether solution was added dropwise. The precipitate was collected and washed with ether to yield 24.71 g (14%) of product, mp, 221°-223°.

reactant | 1-methyl-4-(2,6-difluorobenzoyl) piperidine | 209 g | CN1CCC(CC1)C(C1=C(C=CC=C1F)F)=O | C13H15F2NO
reactant | potassium hydroxide | 400 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 102 g | Cl.NO
reactant | isopropanol | 2100 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | water | 2100 ml | O | H2O
product | 4-Fluoro-3-(1-methyl-4-piperidyl)-1,2-benzisoxazole hydrochloride | 24.71 g, 14% | Cl.FC1=CC=CC2=C1C(=NO2)C2CCN(CC2)C | InChI=1S/C13H15FN2O.ClH/c1-16-7-5-9(6-8-16)13-12-10(14)3-2-4-11(12)17-15-13;/h2-4,9H,5-8H2,1H3;1H
